US08138345B2
Preparation of {3-[(R)-2-((R)-1-Phenylethylamino)propyl]phenyl}acetonitrile Hydrochloride Salt
To a stirred solution of [3-(2-oxopropyl)phenyl]acetonitrile (2.00 g, 11.5 mmol) and (R)-1-phenylethylamine (1.52 mL, 11.9 mmol) in DCM (50.0 mL) was added sodium triacetoxyborohydride (7.59 g, 35.8 mmol). The resulting mixture was stirred at room temperature overnight. Aqueous sodium hydroxide (1 M, 10 mL) and saturated aqueous sodium bicarbonate (20 mL) were added and the layers were separated. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was partially purified by silica gel chromatography (0-5% MeOH in DCM). The resulting material was dissolved in MeOH and acetyl chloride (0.5 mL) was added. This mixture was concentrated under reduced pressure and the residue was dissolved in MeOH (15 mL). Diisopropyl ether (30 mL) was added slowly to form a second layer on top of the solution. After standing at room temperature, the titled compound (2.0 g, 55% yield) precipitated and was collected by filtration.

reactant | [3-(2-oxopropyl)phenyl]acetonitrile | 11.5 mmol, 2.00 g | O=C(CC=1C=C(C=CC1)CC#N)C | C11H11NO
reactant | (R)-1-phenylethylamine | 11.9 mmol, 1.52 mL | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | sodium triacetoxyborohydride | 35.8 mmol, 7.59 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1 M, 10 mL | [OH-].[Na+]
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
reactant | DCM | 50.0 mL | C(Cl)Cl | CH2Cl2
product | {3-[(R)-2-((R)-1-Phenylethylamino)propyl]phenyl}acetonitrile Hydrochloride Salt | 2.0 g, 55% yield | Cl.C1(=CC=CC=C1)[C@@H](C)N[C@@H](CC=1C=C(C=CC1)CC#N)C | InChI=1S/C19H22N2.ClH/c1-15(21-16(2)19-9-4-3-5-10-19)13-18-8-6-7-17(14-18)11-12-20;/h3-10,14-16,21H,11,13H2,1-2H3;1H/t15-,16-;/m1./s1
